US04922021
A mixture of 20.0 g (74 mmoles) of N-(2-bromo-butyryl)--2,6-dimethyl-aniline, 27.8 g (0.15 moles) of potassium phthalimide and 150 ml of dry dimethyl formamide is stirred at 60° C. for 2 hours. The mixture is cooled, poured onto 750 ml of ice water, the separated crystalline substance is filtered off, washed with water and dried. The resulting crude product, weighing 35.7 g, is dissolved in 200 ml of chloroform, the solution is washed thrice with 50 ml of 1 n aqueous sodium hydroxide solution and thrice with 50 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. 17.7 g (71.1%) of N-(2-phthalimido-butyryl)-2,6-dimethyl-aniline are obtained; m.p.: 195°-196° C.

reactant | N-(2-bromo-butyryl)--2,6-dimethyl-aniline | 74 mmoles, 20.0 g | BrC(C(=O)NC1=C(C=CC=C1C)C)CC | C12H16BrNO
reactant | potassium phthalimide | 0.15 moles, 27.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | N-(2-phthalimido-butyryl)-2,6-dimethyl-aniline | 17.7 g, 71.1% | C1(C=2C(C(N1C(C(=O)NC1=C(C=CC=C1C)C)CC)=O)=CC=CC2)=O | C20H20N2O3
